US09079866B2
To a solution consisting of 4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-ol Example 476 (50 mg, 0.18 mmol) and DMF (1 mL) was added Cs2CO3 (116 mg, 0.36 mmol). The mixture was stirred at rt for 30 min. Methyl 2-bromoacetate (30 mg, 0.19 mmol) was added and the resultant mixture stirred at rt for 1 hour and then poured into 15 mL of water. The precipitate was collected and washed with water and air dried to give methyl 2-((4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)oxy)acetate (50 mg, 72%). MS (ESI): mass calcd. for C19H16FN3O3, 353.12; m/z found, 354.0 [M+H]+. 1H NMR (300 MHz, DMSO-d6) δ 8.38 (s, 1H), 8.03 (s, 1H), 7.93 (m, 1H), 7.57 (d, J=13.0, 1H), 7.54 (d, J=9.2, 1H), 7.50 (d, J=7.4, 1H), 7.34 (m, 1H), 7.10-7.02 (m, 2H), 6.70 (s, 2H), 4.89 (s, 2H), 3.71 (s, 3H).

reactant | 4′-(5-aminopyrazin-2-yl)-5′-fluorobiphenyl-2-ol | NC=1N=CC(=NC1)C1=CC=C(C=C1F)C=1C(=CC=CC1)O | C16H12FN3O
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | Cs2CO3 | 0.36 mmol, 116 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Methyl 2-bromoacetate | 0.19 mmol, 30 mg | BrCC(=O)OC | C3H5BrO2
solvent | water | 15 mL | O | H2O
product | methyl 2-((4′-(5-aminopyrazin-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)oxy)acetate | 50 mg, 72% | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)OCC(=O)OC)F | C19H16FN3O3
